US06235731B1
3) Synthesis of (E)-4-[2-[1-(3-phenylpropan-1-yl)-piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene dihydrochloride
In 2 ml of methanol was dissolved 0.418 g of (E)-4-[2-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene, followed by addition of a stoichiometric excess of methanolic hydrochloric acid, and the mixture was stirred for 10 minutes. This reaction mixture was concentrated and crystallized from ethanol-diethyl ether to provide the title compound.

reactant | (E)-4-[2-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene | 0.418 g | C1(=CC=CC=C1)CCCN1CCC(CC1)CS(=O)(=O)/C=C/C1=CC2=CN=C3C=CC=C(S1)N32 | C26H29N3O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (E)-4-[2-[1-(3-phenylpropan-1-yl)-piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CS(=O)(=O)/C=C/C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H29N3O2S2.2ClH/c30-33(31,17-13-24-18-23-19-27-25-9-4-10-26(32-24)29(23)25)20-22-11-15-28(16-12-22)14-5-8-21-6-2-1-3-7-21;;/h1-4,6-7,9-10,13,17-19,22H,5,8,11-12,14-16,20H2;2*1H/b17-13+;;
